US04145347
A mixture of 17.1 g. of ethyl 2-oxo-1-pyrrolidineacetate (U.S. Pat. No. 3,459,738) and 25.4 g. of cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine (U.S. Pat. No. 3,446,811) is heated at 95°-100° C. for 16 hours. The excess cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine is evaporated at reduced pressure and the residue is fractionated. The product, cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-oxo-1-pyrrolidineacetamide, is obtained as an oil, b.p. 178°-183° C./0.15 mm., which crystallizes on standing; m.p. 93°-94.5° C. after two crystallizations from ethyl acetate-pentane.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine | C[C@@H]1N([C@@H](CCC1)C)CCN | C9H20N2
product | cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-oxo-1-pyrrolidineacetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(CCC1)=O)=O | C15H27N3O2
